US08492378B2
2-[(3-chloro-4-methoxybenzyl)thio]-5-(2,3-dihydro-1-benzofuran-5-yl)-1,3,4-oxadiazole
In the same manner as in Example 1 and using 5-(2,3-dihydro-1-benzofuran-5-yl)-1,3,4-oxadiazole-2-thiol instead of 5-(benzothiazol-6-yl)-1,3,4-oxadiazole-2-thiol and 3-chloro-4-methoxybenzyl bromide instead of 3-(trifluoromethyl)benzyl chloride, the title compound (yield 87%) was obtained as colorless crystals.

reactant | 5-(2,3-dihydro-1-benzofuran-5-yl)-1,3,4-oxadiazole-2-thiol | O1CCC2=C1C=CC(=C2)C2=NN=C(O2)S | C10H8N2O2S
reactant | 3-chloro-4-methoxybenzyl bromide | ClC=1C=C(CBr)C=CC1OC | C8H8BrClO
product | 2-[(3-chloro-4-methoxybenzyl)thio]-5-(2,3-dihydro-1-benzofuran-5-yl)-1,3,4-oxadiazole | yield 87% | ClC=1C=C(CSC=2OC(=NN2)C=2C=CC3=C(CCO3)C2)C=CC1OC | C18H15ClN2O3S
